US04933355
4-(1,2-Dihydroxyethyl)-2-(3-phenylureido)thiazole
7 ml of methanol were added dropwise, over a period of one hour, to a mixture comprising 1 g of ethyl 2-(3-phenylureido)thiazol-4-ylglyoxylate, 0.6 g of sodium borohydride and 20 ml of tetrahydrofuran kept heated under reflux. The resulting mixture was cooled to room temperature and acidified with 3N hydrochloric acid. The solvent was evaporated off under reduced pressure, and the residue was washed with water, giving the desired compound as a white powder.

reactant | methanol | 7 ml | CO | CH4O
reactant | ethyl 2-(3-phenylureido)thiazol-4-ylglyoxylate | 1 g | C1(=CC=CC=C1)NC(NC=1SC=C(N1)C(C(=O)OCC)=O)=O | C14H13N3O4S
reactant | sodium borohydride | 0.6 g | [BH4-].[Na+]
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-(1,2-Dihydroxyethyl)-2-(3-phenylureido)thiazole | OC(CO)C=1N=C(SC1)NC(=O)NC1=CC=CC=C1 | C12H13N3O3S
